US07183423B1
A mixture of 3 mmol of diethyl cinnamate, 3 ml of 2-propanol, 0.6 mmol of N-hydroxyphthalimide, 0.015 mmol of cobalt(II) acetate, 0.03 mmol of acetylacetonatocobalt(III), and 1 ml of acetonitrile was stirred at 70° C. in an oxygen atmosphere (1 atm) for 12 hours. A gas chromatographic analysis of products in a reaction mixture revealed that α-hydroxy-β-phenyl-γ,γ-dimethyl-γ-butyrolactone and ethyl 2,4-dihydroxy-4-methyl-3-phenylpentanoate were formed in yields of 18% and 24%, respectively. The conversion rate from diethyl cinnamate was 61%.

reactant | 2-propanol | 3 ml | CC(C)O | C3H8O
reactant | N-hydroxyphthalimide | 0.6 mmol | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
reactant | α-hydroxy-β-phenyl-γ,γ-dimethyl-γ-butyrolactone | OC1C(=O)OC(C1C1=CC=CC=C1)(C)C | C12H14O3
catalyst | cobalt(II) acetate | 0.015 mmol | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | ethyl 2,4-dihydroxy-4-methyl-3-phenylpentanoate | OC(C(=O)OCC)C(C(C)(C)O)C1=CC=CC=C1 | C14H20O4
